data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1935,2145,[CH3:20][O:21][C:22](=[O:23])[c-:24]1[o+:25][c:26]([C:27]#[N:28])[o:29][c:30]1=[O:31].[cH:1]1[cH:2][cH:3][c:4]([C:5]2=[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH:13]3[CH2:14][CH2:15][CH:16]2[CH2:17]3)[cH:18][cH:19]1>>[cH:1]1[cH:2][cH:3][c:4]([C:5]23[C:6]([c:7]4[cH:8][cH:9][cH:10][cH:11][cH:12]4)([CH:13]4[CH2:14][CH2:15][CH:16]2[CH2:17]4)[C:24]2([C:22]([O:21][CH3:20])=[O:23])[O:25][C:26]3([C:27]#[N:28])[O:29][C:30]2=[O:31])[cH:18][cH:19]1,water,298.15,17.12205349825202,-11.760300418115802
3732,4269,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([CH3:18])[C:19]#[N:20]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([CH3:18])([C:19]#[N:20])[N:16]=[C:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,17.089916829300034,-41.77661722564449
2907,3232,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6]#[N+:7][N-:8][C:9]#[N:10]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:8]([C:9]#[N:10])[N:7]=[C:6]1[CH3:5],water,298.15,17.64078521841419,-37.42121381763196
4498,5131,[CH3:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[O+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:11]([CH3:10])=[O:12])([C:14]#[N:15])[O:16][C:17]1([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,18.48279066108443,-21.549784481010413
827,896,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][O:10][C:11](=[O:12])[C-:13]([NH+:14]=[C:15]([CH3:16])[C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:15]([CH3:16])([C:17]([CH3:18])=[O:19])[NH:14][C:13]1([C:11]([O:10][CH3:9])=[O:12])[C:20](=[O:21])[O:22][CH3:23],water,298.15,14.361792163782836,-38.381875879969066
2193,2431,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([C:20]([CH3:21])=[O:22])[C:23](=[O:24])[NH:25][CH3:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:19]([C:20]([CH3:21])=[O:22])([C:23](=[O:24])[NH:25][CH3:26])[O:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,20.56774208148445,-19.824156825721488
3672,4192,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[O+:16][C-:17]([CH3:18])[C:19]#[N:20]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:17]([CH3:18])([C:19]#[N:20])[O:16][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,7.173974069622068,-41.6210528859539
2270,2515,[CH3:17][O:18][C:19](=[O:20])[C:21]#[N+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Cl:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Cl:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([O:18][CH3:17])=[O:20])=[N:22][C:23]2([CH3:24])[C:25]([CH3:26])=[O:27],water,298.15,13.075116214583495,-56.30714228473293
1509,1664,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([NH+:21]=[CH:22][C:23]#[N:24])[C:25]([CH3:26])=[O:27].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[CH:22]([C:23]#[N:24])[NH:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:25]([CH3:26])=[O:27],water,298.15,15.548314352285034,-20.254820028669823
1669,1841,[CH3:12][NH:13][C:14](=[O:15])[C:16](=[NH+:17][N-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[C:25](=[O:26])[NH:27][CH3:28].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[N:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[NH:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:25](=[O:26])[NH:27][CH3:28],water,298.15,19.507787943478107,-8.18591752540697
4256,4870,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][NH+:13]=[C:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[NH:21][CH3:22]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]([C:15](=[O:16])[NH:17][CH3:18])([C:19](=[O:20])[NH:21][CH3:22])[NH:13][N:12]2[CH3:11],water,298.15,28.67521795189527,-5.942258445512848
4340,4961,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[C:21]([CH3:22])=[O:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:21]([CH3:22])=[O:23])[NH:15][C:16]1([C:17]#[N:18])[C:19]#[N:20],water,298.15,18.768722746319465,-6.5540137378604735
